2140-04-28 07:23:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
   - dextrose gtt for ongoing hypoglycemia; increased to D10 --> D20
   - Restarted oral medications Nortriptyline, Sertaline, Gabapentin but
   patient hasn't taken yet, wanted to try Acetaminophen first
   - Emailed outpatient GI Brown; no further recommendations
   - Midnight: called for GPC in blood cultures; vancomycin added
   - Panculture & CXR obtained
   Allergies:
   Penicillins
   rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-28**] 02:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-4-27**] 08:00 AM
   Dextrose 50% - [**2140-4-27**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2140-4-28**] 02:05 AM
   Heparin Sodium (Prophylaxis) - [**2140-4-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: No(t) Dysuria, No(t) Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: hypoglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2140-4-28**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 80 (75 - 96) bpm
   BP: 120/67(79) {98/43(58) - 123/73(82)} mmHg
   RR: 12 (6 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,911 mL
                                                                  1,460 mL
   PO:
             TF:
   IVF:
                                                                  3,811 mL
                                                                  1,460 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    450 mL
   Urine:
                                                                  1,675 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,836 mL
                                                                  1,010 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   11.6 g/dL
   77 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   34.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2140-4-27**]  05:04 AM
                             [**2140-4-28**]  04:10 AM
   WBC
   4.9
   3.7
   Hct
   33.7
   34.4
   Plt
   231
   214
   Cr
   0.8
   0.7
   Glucose
   62
   77
   Other labs: PT / PTT / INR:13.4/27.5/1.1, ALT / AST:23/17, Alk Phos / T
   Bili:83/0.6, Amylase / Lipase:/6, LDH:102 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 BACTEREMIA
 PANCREATITIS, CHRONIC
 HYPOGLYCEMIA
   Mr. [**Known lastname 6516**] is a 60 year old gentleman with a PMH significant for
   chronic pancreatitis [**3-7**] EtOH c/b necrotizing pancreatitis and
   DM 2 admitted for abdominal pain and inability to tolerate PO.
   1. Abdominal pain: Most likely etiology is flare of the
   patient's long-standing chronic pancreatitis. Of note, patient did
   recently complete a one month course of clindamycin.
   - NPO for now
   - aggressive IV fluids
   - IV dilaudid for pain
   - zofran for nausea
   - advance diet as tolerated
   - restart gabapentin and nortryptiline when tolerating po's
   - notify [**First Name4 (NamePattern1) 4113**] [**Last Name (NamePattern1) 2269**] that he is in-house
   - given recent 1-month course of clinda, will check a cdiff
   .
   2. Diabetes, type 2: Pt did take 1/2 dose of lantus yesterday but has
   been unable to tolerate po's so blood sugars low requiring glucose
   drip.
   - q1h fingersticks
   - continue glucose gtt while sugars running low
   - hold long-acting insulin until tolerating po's
   - RISS for any hyperglycemia
   .
   Depression: Continued on sertraline once tolerating PO.
   .
   Anemia: Baseline hct variable in 30s with low-normal MCV.  At baseline.
   .
   # FEN: Aggressive IVFs, replete electrolytes, NPO for now
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals
   .
   # Code: Full
   .
   # Communication: Patient.  HCP, daughter, [**Name (NI) 6517**] [**Telephone/Fax (1) 6518**].
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-4-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-4-28**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2140-04-29 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoglycemia
   24 Hour Events:
   - f/u blood cx: GPCs in pairs/clusters
   - still hypoglycemic off D gtt back on
   - sent TSH
   - d/w Endo: stop D10, when hypoglycemic, send c-peptide, insulin level,
   betahydroxybutyrate (all send-outs), sulfonylurea screen (unable to
   order), get [**Last Name (un) 303**] c/s in AM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   rash;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-4-28**] 08:26 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-4-29**] 05:33 AM
   Hydromorphone (Dilaudid) - [**2140-4-29**] 06:46 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain, Nausea
   Endocrine: hypoglycemia
   Flowsheet Data as of  [**2140-4-29**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 105 (61 - 105) bpm
   BP: 127/66(79) {94/49(61) - 138/79(88)} mmHg
   RR: 29 (8 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,521 mL
                                                                  1,514 mL
   PO:
                                                                    250 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  4,271 mL
                                                                  1,034 mL
   Blood products:
   Total out:
                                                                  4,625 mL
                                                                  1,250 mL
   Urine:
                                                                  4,625 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, date, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   223 K/uL
   12.0 g/dL
   74 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   5 mg/dL
   102 mEq/L
   137 mEq/L
   34.0 %
   3.3 K/uL
        [image002.jpg]
                             [**2140-4-27**]  05:04 AM
                             [**2140-4-28**]  04:10 AM
                             [**2140-4-29**]  04:56 AM
   WBC
   4.9
   3.7
   3.3
   Hct
   33.7
   34.4
   34.0
   Plt
   [**Telephone/Fax (3) 6569**]
   Cr
   0.8
   0.7
   0.6
   Glucose
   62
   77
   74
   Other labs: PT / PTT / INR:13.7/28.8/1.2, ALT / AST:24/29, Alk Phos / T
   Bili:96/0.9, Amylase / Lipase:75/7, Differential-Neuts:64.6 %,
   Lymph:23.4 %, Mono:7.2 %, Eos:4.2 %, LDH:102 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 BACTEREMIA
 PANCREATITIS, CHRONIC
 HYPOGLYCEMIA
   Mr. [**Known lastname 6516**] is a 60 year M with a PMH of chronic pancreatitis [**3-7**] EtOH
   c/b necrotizing pancreatitis and DM 2 admitted for abdominal pain and
   inability to tolerate PO.
   # Abdominal pain: Most likely etiology is flare of the patient's
   long-standing chronic pancreatitis. Of note, patient did recently
   complete a one month course of clindamycin.
   - NPO for now
   - IV fluids
   - IV dilaudid for pain &  zofran for nausea
   - advance diet as tolerated (vomited after minimal po [**4-28**])
   - restart gabapentin and nortryptiline when tolerating po's
   - [**First Name4 (NamePattern1) 4113**] [**Last Name (NamePattern1) 2269**] aware he is inpatient
   - given recent 1-month course of clinda, will check a cdiff
   .
   # Diabetes, type 2: Pt did take 1/2 dose of lantus yesterday but has
   been unable to tolerate po's so blood sugars low requiring glucose
   drip.
   - q1h fingersticks
   - Endocrine consult recs: stopped glucose infusion
   - hold long-acting insulin until tolerating po's
   - RISS for any hyperglycemia
   # GPC: Noted in blood culture [**4-27**].  Not speciated.  No indwelling
   lines.
   - Continue Vancomycin until speciated
   - Follow-up current blood, urine, C.diff cultures
   - Afebrile
   .
   # Depression: Continued on sertraline once tolerating PO.
   .
   # Anemia: Baseline hct variable in 30s with low-normal MCV.  At
   baseline.
   # FEN: Aggressive IVFs, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access:
   18 Gauge - [**2140-4-28**] 05:19 AM
   22 Gauge - [**2140-4-28**] 12:24 PM
    # Code: Full
   # Communication: Patient.  HCP, daughter, [**Name (NI) 6517**] [**Telephone/Fax (1) 6518**].
   # Disposition: pending above